US07262185B2
To 5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-3-yl methanol (1.0 g), thionyl chloride (5 ml) was added at 0° C. After heating to reflux for 40 minutes, the mixture was concentrated under reduced pressure. To the residue was added ethyl acetate, and the precipitated crystals were collected by filtration. The crystals were washed with ethyl acetate, to give 3-(chloromethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine hydrochloride (1.03 g) as pale yellow crystals.

reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-3-yl methanol | 1.0 g | N=1C=C(N2C1CCCC2)CO | C8H12N2O
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(chloromethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine hydrochloride | 1.03 g | Cl.ClCC1=CN=C2N1CCCC2 | InChI=1S/C8H11ClN2.ClH/c9-5-7-6-10-8-3-1-2-4-11(7)8;/h6H,1-5H2;1H
